US06013658
((1R,2E)-4-(tert-Butyldimethylsilanyloxymethyl)-1-(2-naphthyl)methyl-5-phenylpent-2-enyl)carbamic acid tert-butyl ester (0.75 g, 1.38 mmol) was dissolved in 2% hydrogen fluoride in acetonitrile (50 ml) and stirred at room temperature for 3 h. The solvent was removed in vacuo and the residue was chromatographed on silica (80 g) using dichloromethane/heptane/methanol (4/10/1) as eluent. Three fractions were isolated containing compounds with Rf 0.1-0.2. The major fraction (eluting second) was concentrated in vacuo to give 0.35 g of ((1R,2E)-4-hydroxymethyl-1-(2-naphthyl)methyl-5-phenylpent-2-enyl)carbamic acid tert butyl ester as a mixture of diastereomers.

reactant | ((1R,2E)-4-(tert-Butyldimethylsilanyloxymethyl)-1-(2-naphthyl)methyl-5-phenylpent-2-enyl)carbamic acid tert-butyl ester | 1.38 mmol, 0.75 g | C(C)(C)(C)OC(N[C@@H](\C=C\C(CC1=CC=CC=C1)CO[Si](C)(C)C(C)(C)C)CC1=CC2=CC=CC=C2C=C1)=O | C34H47NO3Si
solvent | hydrogen fluoride | F | FH
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | ((1R,2E)-4-hydroxymethyl-1-(2-naphthyl)methyl-5-phenylpent-2-enyl)carbamic acid tert butyl ester | 0.35 g | C(C)(C)(C)OC(N[C@@H](\C=C\C(CC1=CC=CC=C1)CO)CC1=CC2=CC=CC=C2C=C1)=O | C28H33NO3
